US08106190B2
By allowing ethyl 2,6-dichloronicotinate and cyclohexanamine to undergo the reaction at 50° C. for 1 hour in DMF in the presence of potassium carbonate, ethyl 6-chloro-2-(cyclohexylamino)nicotinate was obtained. By carrying out hydrolysis of an ethanol solution of this at 70° C. for 18 hours in the presence of 1 M sodium hydroxide, 6-chloro-2-(cyclohexylamino)nicotinic acid was obtained.

reactant | ethyl 2,6-dichloronicotinate | ClC1=C(C(=O)OCC)C=CC(=N1)Cl | C8H7Cl2NO2
reactant | cyclohexanamine | C1(CCCCC1)N | C6H13N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 6-chloro-2-(cyclohexylamino)nicotinate | ClC1=NC(=C(C(=O)OCC)C=C1)NC1CCCCC1 | C14H19ClN2O2
